US05714606
3, 6, 9-Trioxadecyl-4-Toluenesulfonate
Toluenesulfonyl chloride (7.15 g, 37.5 mmol) was added to a solution of triethyleneglycol monomethyl ether (5.0 ml, 5.13 g, 31.2 mmol) in 100 ml pyridine. The solution was stirred at RT overnight, the solvent removed and the residue extracted twice with CH2Cl2, washed with 0.1N HCl, water, NaHCO3, brine, dried with MgSO4 and evaporated. 4.5 g crude product was obtained (45%). 1H NMR: (CDCl3, 200 MHz) d 7.80 (d, 2H, ArH), 7.33 (d, 2H, ArH), 4.15 (t, 2H, TsOCH2), 3.80-3.45 (m, 10H, OCH3), 3.36 (d, 3H, OCH3), 2.44 (s, 3H, ArCH3).

reactant | Toluenesulfonyl chloride | 37.5 mmol, 7.15 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethyleneglycol monomethyl ether | 31.2 mmol, 5.0 ml, 5.13 g | COCCOCCOCCO | C7H16O4
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3, 6, 9-Trioxadecyl-4-Toluenesulfonate | 4.5 g | C(COCCOCCOC)OS(=O)(=O)C1=CC=C(C=C1)C | C14H22O6S
